US06559145B2
N-(4-Chlorobenzyl)-4-hydroxy-1-benzothiophene-5-carboxamide [BI.5, X=Cl].
A mixture of 4-chlorobenzylamine (1 mL) and methyl 4-hydroxy-1-benzothiophene-5-carboxylate (Preparation 13, 0.50 g) is heated to 120° C. under an atmosphere of nitrogen for 4 hours. After cooling, the residue is diluted with ethyl acetate and methanol (1:1) and absorbed onto silica gel. Chromatography on a Biotage column eluting with 500 mL of toluene gave 520 mg (68%) of the title compound as a white solid. Physical characteristics: Mp 168-169° C.; MS (ESI−) m/z 316.1 (M−H)−. Anal. Found: C, 60.82; H, 3.87; N, 4.33.

reactant | 4-chlorobenzylamine | 1 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | methyl 4-hydroxy-1-benzothiophene-5-carboxylate | 0.50 g | OC1=C(C=CC2=C1C=CS2)C(=O)OC | C10H8O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | N-(4-Chlorobenzyl)-4-hydroxy-1-benzothiophene-5-carboxamide | 520 mg, 68% | ClC1=CC=C(CNC(=O)C=2C=CC3=C(C=CS3)C2O)C=C1 | C16H12ClNO2S
